US06220925B1
389 g of a 25% aqueous ammonia was mixed with 200 ml of acetonitrile and to the mixture was added 100 g of n-octadecenylsuccinic anhydride, followed by stirring for 2 hours at room temperature. The mixture was neutralized with concentrated hydrochloric acid. The crystals thus-deposited were collected by filtration, washed with water and then with acetonitrile, and dried to obtain 84.5 g of n-octadecenyl-succinic monoamide as colorless crystals.

reactant | ammonia | N | H3N
reactant | n-octadecenylsuccinic anhydride | 100 g | C(=CCCCCCCCCCCCCCCCC)C1C(=O)OC(C1)=O | C22H38O3
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | n-octadecenyl-succinic monoamide | 84.5 g | C(=CCCCCCCCCCCCCCCCC)C(C(=O)N)CC(=O)O | C22H41NO3
